US07667064B2
N-(2-Bromo-4,6-dimethylphenyl)(dimethyl)(2,3,4,5-tetramethyl-2,4-cyclopentadien-1-yl)silanamine
Under an argon atmosphere, to a solution of 13.9 g (69.5 mmol) of 2-bromo-4,6-dimethylaniline in 200 ml of THF, 27.9 ml of 2.5 M (69.5 mmol) nBuLi in hexanes were added at −50° C. This mixture was stirred for 2 hours at ambient temperature. The resulting solution was added dropwise over ca. 1 hour, while vigorously stirring, to a solution of 15.0 g (69.5 mmol) of chloro(dimethyl)(2,3,4,5-tetramethyl-2,4-cyclopentadien-1-yl)silane in 100 ml of THF at 0° C. The resulting mixture was stirred overnight at ambient temperature, then, evaporated to dryness. To the residue 100 ml of toluene were added. This mixture was filtered through a glass frit (G4). The filtrate was evaporated to dryness. Fractional distillation gave a yellow liquid, bp 180-184° C./0.5 mm Hg. Yield 20.1 g (77%).

reactant | 2-bromo-4,6-dimethylaniline | 69.5 mmol, 13.9 g | BrC1=C(N)C(=CC(=C1)C)C | C8H10BrN
reactant | nBuLi | 69.5 mmol, 2.5 M | [Li]CCCC
reactant | chloro(dimethyl)(2,3,4,5-tetramethyl-2,4-cyclopentadien-1-yl)silane | 69.5 mmol, 15.0 g | Cl[Si](C1C(=C(C(=C1C)C)C)C)(C)C | C11H19ClSi
solvent | THF | 200 ml | C1CCOC1 | C4H8O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | N-(2-Bromo-4,6-dimethylphenyl)(dimethyl)(2,3,4,5-tetramethyl-2,4-cyclopentadien-1-yl)silanamine | BrC1=C(C(=CC(=C1)C)C)N[Si](C1C(=C(C(=C1C)C)C)C)(C)C | C19H28BrNSi
